US07456166B2
To a slurried solution of 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide (54.0 g, 126 mmol), 4-methoxy-2-formylphenylboronic acid (29.5 g, 164 mmol) and LiCl (13.3 g, 315 mmol) in EtOH/toluene (1:1, 1 L) was added a solution of Na2CO3 (40.1 g, 379 mmol) in water (380 mL). The reaction mixture was stirred 10 min. and then Pd(PPh3)4 (11.3 g, 10.0 mmol) was added. The reaction solution was flushed with nitrogen and heated at 70° C. (internal monitoring) overnight and then cooled to rt. The reaction was diluted with EtOAc (1 L) and EtOH (100 mL), washed carefully with 1N aqueous HCl (1 L) and brine (500 mL), dried (MgSO4), filtered and concentrated. The residual solids were stirred with Et2O (600 mL) for 1 h and collected by filtration to yield 1H-indole-6-carboxamide, 3-cyclohexyl-N-[(dimethylamino)sulfonyl]-2-(2-formyl-4-methoxyphenyl)- (52.8 g, 109 mmol, 87%) as a yellow powder which was used without further purification. 1HNMR (300 MHz, d6-DMSO) δ 11.66 (s, 1H), 8.17 (s, 1H), 7.75 (d, J=8.4 Hz, 1H), 7.74 (d, J=8.4 Hz, 1H), 7.59 (dd, J=1.4, 8.4 Hz, 1H), 7.23-7.16 (m, 2H), 7.08 (dd, J=2.6, 8.4 Hz, 1H), 6.54 (d, J=8.8 Hz, 1H), 3.86 (s, 3H), 3.22-3.08 (m, 1H), 2.91 (s, 6H), 2.00-1.74 (m, 7H), 1.60-1.38 (m, 3H). 13CNMR (75 MHz, CDCl3) δ 165.7, 158.8, 147.2, 139.1, 134.3, 132.0, 123.4, 122.0, 119.2, 118.2, 114.8, 112.3, 110.4, 109.8, 79.6, 45.9, 37.2(2), 34.7, 32.0(2), 25.9(2), 24.9. LCMS: m/e 482 (M−H)−, ret time 2.56 min, column A, 4 minute gradient.

reactant | 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide | 126 mmol, 54.0 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)NS(=O)(=O)N(C)C | C17H22BrN3O3S
reactant | 4-methoxy-2-formylphenylboronic acid | 164 mmol, 29.5 g | COC1=CC(=C(C=C1)B(O)O)C=O | C8H9BO4
reactant | LiCl | 315 mmol, 13.3 g | [Li+].[Cl-]
reactant | Na2CO3 | 379 mmol, 40.1 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH toluene | 1 L | CCO.C1(=CC=CC=C1)C
solvent | water | 380 mL | O | H2O
catalyst | Pd(PPh3)4 | 10.0 mmol, 11.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1H-indole-6-carboxamide | N1C=CC2=CC=C(C=C12)C(=O)N | C9H8N2O
